US05223529
3-Methylphenyl isocyanate (0.59 g) is added at a temperature in the region of 25° C. to a solution of 2-amino-N,N-diphenylacetamide (1 g) in anhydrous tetrahydrofuran (20 cc). The suspension obtained is stirred for 4 hours at a temperature in the region of 25° C. and the insoluble product is separated by filtration. After recrystallization in acetonitrile, N,N-diphenyl-2-[3-(3-methylphenyl)ureido]acetamide (0.8 g), m.p. 240° C., is obtained.

reactant | 3-Methylphenyl isocyanate | 0.59 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
reactant | 2-amino-N,N-diphenylacetamide | 1 g | NCC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1 | C14H14N2O
solvent | tetrahydrofuran | 20 cc | O1CCCC1 | C4H8O
product | N,N-diphenyl-2-[3-(3-methylphenyl)ureido]acetamide | 0.8 g | C1(=CC=CC=C1)N(C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=CC=CC=C1 | C22H21N3O2
